US05856529
Step 3: 2,3-Dihydrobenzofuran-4-carboxaldehyde
DMSO (8.10 mL, 114 mmol) was added at -78° C. to a stirred solution of oxalyl chloride in CH2Cl2 (40 mL of a 2M solution). A solution of (2,3-dihydrobenzofuran-4-yl)methanol (8.53 g, 56.9 mmol) in CH2Cl2 (35 mL) was added dropwise, and the solution stirred at -78° C. for 30 min. Triethyl amine (33 mL, 228 mmol) was added cautiously to quench the reaction. The resulting suspension was stirred at room temperature for 30 min and diluted with CH2Cl2 (100 mL). The organic layer was washed three times with water, and twice with brine, and then concentrated in vacuo to an oil (8.42 g, 100%) that was used without purification.

reactant | DMSO | 114 mmol, 8.10 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (2,3-dihydrobenzofuran-4-yl)methanol | 56.9 mmol, 8.53 g | O1CCC2=C1C=CC=C2CO | C9H10O2
reactant | Triethyl amine | 228 mmol, 33 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2,3-Dihydrobenzofuran-4-carboxaldehyde | O1CCC=2C1=CC=CC2C=O | C9H8O2
